US04219559
A mixture of 1.2 parts of chloroacetonitrile, 6.7 parts of 4-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]phenol, 2.8 parts of potassium carbonate and 160 parts of 2-propanone is stirred and refluxed overnight. The reaction mixture is poured onto water and the product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2-propanone. The salt is filtered off and dried, yielding 7.4 parts (78.6%) of {4-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]phenoxy}acetonitrile dihydrochloride. monohydrate; mp. 224.6° C.

reactant | chloroacetonitrile | ClCC#N | C2H2ClN
reactant | 4-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]phenol | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=CC=C(C=C2)O | C27H29FN4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-propanone | CC(C)=O | C3H6O
product | {4-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]phenoxy}acetonitrile dihydrochloride | 78.6% | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=CC=C(OCC#N)C=C2 | InChI=1S/C29H30FN5O.2ClH/c30-24-9-5-23(6-10-24)21-35-28-4-2-1-3-27(28)33-29(35)32-25-14-18-34(19-15-25)17-13-22-7-11-26(12-8-22)36-20-16-31;;/h1-12,25H,13-15,17-21H2,(H,32,33);2*1H
